datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1.C[C:11](=[CH2:10])[O:12][Si:63](C1=C(F)C(F)=C(F)C(F)=C1F)(C1=C(F)C(F)=C(F)C(F)=C1F)C1=C(F)C(F)=C(F)C(F)=C1F>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][C:11](C)=[O+:12][Si:63](C2=C(F)C(F)=C(F)C(F)=C2F)(C2=C(F)C(F)=C(F)C(F)=C2F)C2=C(F)C(F)=C(F)C(F)=C2F)[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([S:61]([CH-:10][C:91]([C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)=[O:92])(=[O:62])=[O:72])C=C1.C1CC[C:20](=[O:21])CC1>>C1=CC=C([S:61]([CH:10]([C:20]2([O-:21])CCCCC2)[C:91]([C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)=[O:92])(=[O:62])=[O:72])C=C1 10=20;20,21=21"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.COC1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1>>COC1=CC=C([CH:10]([C:11](=[N+:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[CH:20]([C:21]2=[C:22]([O-:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(C[N:10]=[C:11]2[NH:12]CC[NH:62]2)C=C1.COC1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1>>COC1=CC=C([CH:20]([N:10](CC2=CC=CC=C2)[C:11]2=[NH+:12]CC[NH:62]2)[C:21](=[C:22]=[N-:23])[C:32]#[N:33])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[O:12][CH:11]=[CH2:10]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH2:10][CH:11]=[O+:12][Si:63]([Si](C)(C)C)([Si](C)(C)C)[Si](C)(C)C)([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1C[CH:10]=[CH:11]C1.F[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>F[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2CCC[CH+:11]2)[C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"C1COC2(CC[C:20](=[O:21])CC2)O1.C[O:12][C:11]1=[CH:10][CH:71]=[CH:72][C:63]([O:64]C)=[CH:62]1>>C[O+:12]=[C:11]1[CH:10]([C:20]2([O-:21])CCC3(CC2)OCCO3)[CH:71]=[CH:72][C:63]([O:64]C)=[CH:62]1 10,11=10,20;12=11,12;20,21=21"
"CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22](=[O:23])[O:39]1.COC(=O)[C@@H]1CCC[N:12]1[C:11]1=[CH:10]CCCC1>>COC(=O)[C@@H]1CCC[N+:12]1=[C:11]1CCCC[CH:10]1[CH:20]([C:21]1=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]1=[O:32])[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N:74]1[C:61](=[O:62])[N:10]=[C:11]([O-:12])[CH:72]=[CH:73]1.[CH:20](=[C:21]([C:22]#[N:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1>>C[N:74]1[C:61](=[O:62])[N:10]([CH:20]([C:21](=[C:22]=[N-:23])[C:32]#[N:33])[C:41]2=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]2)[C:11](=[O:12])[CH:72]=[CH:73]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[CH:32]=[CH:31][C+:20]1[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1.C[Si:11](C)([H:10])[CH2:62][Si:63](C)(C)C>>C1C[CH:32]=[CH:31][C:20]1([H:10])[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1.C[Si+:11](C)[CH2:62][Si:63](C)(C)C 10,11=10,20"
"C1=CC=C([C:22]([CH:21]=[CH2:20])=[O:23])C=C1.C[N:62]1[CH:61]=[N:10][CH:71]=[CH:72]1>>C[N:62]1[CH:61]=[N+:10]([CH2:20][CH:21]=[C:22](C2=CC=CC=C2)[O-:23])[CH:71]=[CH:72]1 10=20;20,21=21,22;22,23=23"
"CC[O:82][C:71]([C-:10]([C:61](=[O:62])[O:112]CC)[C:91]1=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]1)=[O:72].Cl[C:32]1=[N+:21]([F:20])[C:42](Cl)=[CH:43][CH:34]=[CH:33]1>>CC[O:82][C:71]([C:10]([F:20])([C:61](=[O:62])[O:112]CC)[C:91]1=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]1)=[O:72].Cl[C:32]1=[N:21][C:42](Cl)=[CH:43][CH:34]=[CH:33]1 10=20;20,21=21"
"CC[O:82][C:71]([CH-:10][S+:61](C)C)=[O:72].O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20]N2N=N[N:35]=[C:34]21>>CC[O:82][C:71]([CH:10]([CH:20]1N2N=N[N:35]=[C:34]2[C:33]([N+](=O)[O-])=[CH:32][C:21]1=[N+:22]([O-])[O-:23])[S+:61](C)C)=[O:72] 10=20;20,21=21,22;22,23=23"
"C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][C:33]3=[C:34]4N(CCC3)CCC[C:35]4=[CH:36]2)C2=CC=CC=C21.C[Si:71](C)(C)[CH-:10][N+:61]#[N:62]>>C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([CH:10]([N+:61]#[N:62])[Si:71](C)(C)C)[C:31]2=[CH:32][C:33]3=[C:34]4N(CCC3)CCC[C:35]4=[CH:36]2)=[CH:22]1 10=20;20,21=21,22;22,23=23"
"CO[C:24](/[N:23]=[N:22]/[C:21](C)=[CH:20]/[C:31](=[O:32])[N:33](C)C)=[O:25].[N-]=[N+]=NC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[NH:10]1>>CO[C:24](=[N:23][N:22]=[C:21](C)[CH:20]([NH+:10]1CCC[C@H]1C(N=[N+]=[N-])(C1=CC=CC=C1)C1=CC=CC=C1)[C:31](=[O:32])[N:33](C)C)[O-:25] 10=20;20,21=21,22;22,23=23,24;24,25=25"
